data/oMe_Silver.jsonl
{"reaction_id": "NR-212_1-CC_2-C(=O)OC_3-c1ccccc1_4-C_5-c1ccccc1_6-c1cccc(C)c1","level": "easy","name": "Paterno-Buchi Reaction","reactants_smiles": ["C(CC)(C(=O)OC)=C(c1ccccc1)(C)","O=C(c1ccccc1)(c1cccc(C)c1)"],"products_smiles": ["C1(CC)(C(=O)OC)C(c1ccccc1)(c1cccc(C)c1)OC1(c1ccccc1)(C)"],"conditions": "hv","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(CC)(C(=O)OC)C(c1ccccc1)(c1cccc(C)c1)OC1(c1ccccc1)(C)","step_weight": 0,"rationale": "UV light excites the carbonyl to a reactive state, allowing radical coupling with the alkene's π-bond; oxygen's electronegativity and π-overlap stabilize the diradical intermediate, favoring oxetane ring closure."}],"description": "Under UV irradiation, the carbonyl compound is excited to a singlet or triplet state, enabling [2+2] photocycloaddition with the alkene to form an oxetane. The reaction proceeds via radical intermediates stabilized by the oxygen and alkene π-system."}
{"reaction_id": "NR-326_1-OC(C)(C)C_2-c1ccc(F)cc1","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(OC(C)(C)C)(=O)C(=[N+]=[N-])c1ccc(F)cc1"],"products_smiles": ["O=C=C(c1ccc(F)cc1)OC(C)(C)C"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(OC(C)(C)C)(=O)[C]c1ccc(F)cc1","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(c1ccc(F)cc1)OC(C)(C)C","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of OC(C)(C)C to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
{"reaction_id": "NR-334_1-c1cnccc1_2-c1ccc(F)cc1_3-c1ccc(C)cc1_4-C","level": "medium","name": "Ritter Reaction","reactants_smiles": ["N#Cc1cnccc1","OC(c1ccc(F)cc1)(c1ccc(C)cc1)C"],"products_smiles": ["C(=O)(NC(c1ccc(F)cc1)(c1ccc(C)cc1)C)c1cnccc1"],"conditions": "H2SO4, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]C(c1ccc(F)cc1)(c1ccc(C)cc1)C","step_weight": 0,"rationale": "Protonation of the alcohol oxygen increases its leaving group ability by converting OH into water, a much better leaving group under acidic conditions."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](c1ccc(F)cc1)(c1ccc(C)cc1)C","step_weight": 0,"rationale": "Loss of water generates a carbocation stabilized by adjacent alkyl groups through hyperconjugation and inductive effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(#[N+]C(c1ccc(F)cc1)(c1ccc(C)cc1)C)c1cnccc1","step_weight": 0,"rationale": "The nitrile nitrogen, being nucleophilic, attacks the carbocation, forming a nitrilium ion stabilized by resonance with the triple bond."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=NC(c1ccc(F)cc1)(c1ccc(C)cc1)C)([OH2+])c1cnccc1","step_weight": 0,"rationale": "Water, activated by the acidic medium, adds to the electrophilic carbon of the nitrilium ion, forming a protonated imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=NC(c1ccc(F)cc1)(c1ccc(C)cc1)C)(O)c1cnccc1","step_weight": 0,"rationale": "Deprotonation of the protonated imidate oxygen restores neutrality, yielding the neutral imidic acid form."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC(c1ccc(F)cc1)(c1ccc(C)cc1)C)c1cnccc1","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the imidic acid to the more thermodynamically stable amide via proton transfers."}],"description": "Under strong acid, the alcohol is protonated and loses water to form a stable carbocation. The nitrile attacks, forming an iminium intermediate, which is then hydrated and tautomerizes to the amide. Acid catalysis drives each step by stabilizing intermediates and activating electrophiles."}
